US06440972B1
4-Bromophenylsulphonyl chloride (1.02 g) was added to a mixture of 1-[1-(3-fluoro-4-pyridyl)-piperidin-4-ylcarbonyl]piperazine hydrochloride (1.22 g) and triethylamine (3.70 ml) in dichloromethane (45 ml) at 0° C. The solution was stirred at ambient temperature for 18 hours. The solution was diluted with dichloromethane and washed with water, dried (Na2SO4) and evaporated. The residue was purified by chromatography eluting with 2% methanol in dichloromethane. Recrystallisation from ethyl acetate/hexane gave 1-(4-bromophenylsulphonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine (1.24 g) as a solid.

reactant | 4-Bromophenylsulphonyl chloride | 1.02 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 1-[1-(3-fluoro-4-pyridyl)-piperidin-4-ylcarbonyl]piperazine hydrochloride | 1.22 g | Cl.FC=1C=NC=CC1N1CCC(CC1)C(=O)N1CCNCC1
reactant | triethylamine | 3.70 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenylsulphonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 1.24 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=C(C=NC=C1)F | C21H24BrFN4O3S
